* AD847A SPICE Macro-model                   12/90, Rev. A
*                                            JCB / PMI
*
* This version of the AD847 model simulates the worst case 
* parameters of the 'A' grade.  The worst case parameters
* used correspond to those in the data sheet.
*
* Copyright 1990 by Analog Devices
*
* Refer to "README.DOC" file for License Statement.  Use of this model
* indicates your acceptance with the terms and provisions in the License Statement.
*
* Node assignments
*               non-inverting input
*               |   inverting input
*               |   |   positive supply
*               |   |   |   negative supply
*               |   |   |   |   output
*               |   |   |   |   |
*               |   |   |   |   |
.SUBCKT AD847A  1   2   99  50  30
*
* INPUT STAGE & POLE AT 300 MHZ
*
R1   2  3     5E11
R2   1  3     5E11
R3   5 99     813
R4   6 99     813
CIN  1  2     1.5E-12
C2   5  6     326E-15
I1   4  50    908E-6
IOS  1  2     150E-9
EOS  9  1     POLY(1)  19 23  1.0E-3  1
Q1   5  2 10  QX
Q2   6  9 11  QX
R5   10 4     756
R6   11 4     756
*
EREF 98 0     23  0  1
*
* GAIN STAGE & DOMINANT POLE AT 16.2 KHZ
*
R7  12 98     2.44E6
C3  12 98     4.036E-12
G1  98 12     5  6  1.230E-3
V2  99 13     3.1
V3  14 50     3.1
D3  12 13     DX
D4  14 12     DX
*
* ZERO/POLE PAIR AT 70MHz/200MHz
*
R8  15 16     1E6
R9  16 98     1.86E6
L1  16 98     1.48E-3
G2  98 15     12 23  1E-6
*
* POLE AT 300 MHZ
*
R41 41 98     1E6
C41 41 98     531E-18
G41 98 41     15 23  1E-6
*
* POLE AT 300 MHZ
*
R42 42 98     1E6
C42 42 98     531E-18
G42 98 42     41 23  1E-6
*
* POLE AT 400 MHZ
*
R43 43 98     1E6
C43 43 98     398E-18
G43 98 43     42 23  1E-6
*
* COMMON-MODE GAIN NETWORK WITH ZERO AT 224 kHZ
*
R11 18 19     1E6
C6  18 19     708E-15
R12 19 98     1
E2  18 98     3  23  100
*
* POLE AT 400 MHZ
*
R15 22 98     1E6
C8  22 98     398E-18
G3  98 22     43 23  1E-6
*
* OUTPUT STAGE
*
RF  30 60     500
CF  60 12     12.5E-12
R16 23 99     100E3
R17 23 50     100E3
ISY 99 50     5.24E-3
R18 25 99     90
R19 25 50     90
L2  25 30     3E-8
G4  28 50     22 25  11.11E-3
G5  29 50     25 22  11.11E-3
G6  25 99     99 22  11.11E-3
G7  50 25     22 50  11.11E-3
V4  26 25     0.8
V5  25 27     0.8
D5  22 26     DX
D6  27 22     DX
D7  99 28     DX
D8  99 29     DX
D9  50 28     DY
D10 50 29     DY
*
* MODELS USED
*
.MODEL QX NPN(BF=90.8)
.MODEL DX   D(IS=1E-15)
.MODEL DY   D(IS=1E-15 BV=50)
.ENDS
